US07230098B2
5-Bromo-3-(2-trifluoromethyl-benzyloxy)-pyridin-2-ylamine (5.80 g, 16.7 mmol), 4-carboxybenzeneboronic acid (3.05 g, 18.4 mmol), tetrakis(triphenylphosphine)-palladium(0) (0.62 g, 0.6 mmol), potassium carbonate (8.10 g, 58 mmol), dimethylformamide (47 mL) and water (23 mL) were charged to a 250 mL three neck round bottom flask equipped with a thermometer, a reflux condenser and magnetic stirring. The mixture was purged with nitrogen and gradually heated from 81 to 93° C. over a period of 4 hr. Thin layer chromatography (ethyl acetate:hexane:acetic acid 4:6:0.5) showed product at Rf 0.6 and a few small impurities. The mixture was cooled to 45° C. The solids were collected by vacuum filtration, washed with 10 mL of ethanol:water 1:1 and discarded. The filtrate was diluted with 300 mL of water and 4 mL of 9 N potassium hydroxide solution (to pH 12–13), cooled in an ice bath and stirred for 30 minutes with 3 g of Celite and 3 g of Norit. The solids were collected by vacuum filtration through a pad of Celite and washed with 10 mL of water. The solids were discarded. The filtrate was cooled in an ice bath and acidified to pH 7.3 with acetic acid using a pH meter. The solids were collected by vacuum filtration, washed with 20 mL of ethanol:water 1:1 and dried under vacuum to give 4.5 g (69% yield) of 4-[6-amino-5-(2-trifluoromethyl-benzyloxy)-pyridin-3-yl]-benzoic acid as a brown solid.

reactant | 5-Bromo-3-(2-trifluoromethyl-benzyloxy)-pyridin-2-ylamine | 16.7 mmol, 5.80 g | BrC=1C=C(C(=NC1)N)OCC1=C(C=CC=C1)C(F)(F)F | C13H10BrF3N2O
reactant | 4-carboxybenzeneboronic acid | 18.4 mmol, 3.05 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | potassium carbonate | 58 mmol, 8.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 47 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.6 mmol, 0.62 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 23 mL | O | H2O
product | 4-[6-amino-5-(2-trifluoromethyl-benzyloxy)-pyridin-3-yl]-benzoic acid | 4.5 g, 69% yield | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)OCC1=C(C=CC=C1)C(F)(F)F | C20H15F3N2O3
